US07569592B2
2-(2-Pyridyl)-malondialdehyde (7.8 g, 52 mmol) and hydrazine hydrate (3.7 mL) were heated at 75° C. in ethanol (75 mL) for 18 h. After cooling to ambient temperature and concentration in vacuo, recrystallization from EtOAc/Hexane gave 2-(1H-pyrazol-4-yl)pyridine as gold crystals. MP=136° C. 1H NMR (CD3Cl, 300 MHz) δ 6.48-8.51 (1H, m), 8.30 (1H, br. s), 8.07 (1H, br. s), 7.74 (1H, ddd), 7.68 (1H, d), 7.15 (1H, ddd). MS (ESI) 146 (M+H)+

reactant | 2-(2-Pyridyl)-malondialdehyde | 52 mmol, 7.8 g | C1=CC=NC(=C1)C(C=O)C=O | C8H7NO2
reactant | hydrazine hydrate | 3.7 mL | O.NN
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-(1H-pyrazol-4-yl)pyridine | N1N=CC(=C1)C1=NC=CC=C1 | C8H7N3
